US06313341B1
Into a dry flask were placed copper (I) cyanide (10.6 g, 118 mmol) and a solution of [(4RS, 1E)-4-hydroxy-4-methyl-1-octenyl]tri-n-butyltin (58.4 g, 135 mmol) in dry tetrahydrofuran (600 ml) under nitrogen atmosphere, and the mixture was cooled to 0° C. To this mixture was dropped 360 ml (389 mmol) of a diethyl ether solution of methyllithium (1.08 mol/liter), and stirring was continued for 1 h, letting the temperature rise gradually to room temperature. After cooling to −78° C., a solution of (±) methyl 7-(3-tert-butyldimethylsilyloxy-5-oxo-1-cyclopentenyl)heptanoate (30.0 g, 84.6 mmol) in dry tetrahydrofuran (140 ml) was rapidly added. After stirring for 5 min, 300 ml of a saturated aqueous ammonium chloride/aqueous ammonia (9:1) was added, and stirring was continued for 30 min , letting the temperature rise gradually to room temperature. This mixture was extracted with ethyl acetate (400 ml) two times, and the combined organic layer was washed with a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo to remove solvent. The residue was purified by silica gel column chromatography [ethyl acetate/hexane (1/5)] to give 39.5 g (94% yield) of (±)-methyl(16RS, 13E)-11-tert-butyldimethylsilyloxy-16-hydroxy-16-methyl-9-oxoprost-13-en-1-oate as a colorless oil. The spectral data of IR and 1H NMR were identical with those of the example 2.

reactant | copper (I) cyanide | 118 mmol, 10.6 g | [Cu]C#N
reactant | [(4RS, 1E)-4-hydroxy-4-methyl-1-octenyl]tri-n-butyltin | 135 mmol, 58.4 g | OC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCC)C
reactant | diethyl ether | 389 mmol, 360 ml | C(C)OCC | C4H10O
reactant | methyllithium | 1.08 mol/liter | C[Li]
reactant | (±) methyl 7-(3-tert-butyldimethylsilyloxy-5-oxo-1-cyclopentenyl)heptanoate | 84.6 mmol, 30.0 g | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C19H34O4Si
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | (±)-methyl(16RS, 13E)-11-tert-butyldimethylsilyloxy-16-hydroxy-16-methyl-9-oxoprost-13-en-1-oate | 39.5 g, 94% yield | COC(CCCCCC[C@H]1C(CC([C@@H]1\C=C\CC(CCCC)(C)O)O[Si](C)(C)C(C)(C)C)=O)=O | C28H52O5Si
